US05300687
2-Trifluoromethylbenzylphosphonic acid
The diethyl 2-trifluoromethylbenzylphosphonate (1.22 g, 4.12 mmol) was dissolved in a mixture of 50 mL of conc hydrochloric acid and 5 mL of EtOH and was heated at reflux temperature for 17 hours. After cooling the mixture in an ice bath, white crystalline acid was collected to give 0.46 g, 46% of the desired product, mp=190°-192° C.; D.C.I.M.S. [MH+, 241].

reactant | diethyl 2-trifluoromethylbenzylphosphonate | 4.12 mmol, 1.22 g | FC(C1=C(CP(OCC)(OCC)=O)C=CC=C1)(F)F | C12H16F3O3P
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-Trifluoromethylbenzylphosphonic acid | 0.46 g, 46% | FC(C1=C(CP(O)(O)=O)C=CC=C1)(F)F | C8H8F3O3P
